US07462630B2
Synthesis of t-butyl 2-[(5H-dibenzo[a,d][7]annulen-5-ylidenacetyl)amino]-ethylcarbamate:
173 mg (0.70 mmol) of 5H-dibenzo[a,d][7]annulen-5-ylidenacetic acid, 124 mg (0.77 mmol) of t-butyl N-(2-aminoethyl)carbamate, 143 mg (0.75 mmol) of 1-ethyl-3-(3′-dimethylaminopropyl)carbodiimide hydrochloride and 0.11 ml (0.79 mmol) of triethylamine were stirred in 5 ml of dichloromethane at room temperature overnight. The reaction mixture was washed with saturated aqueous sodium hydrogencarbonate solution and the organic layer was dried over anhydrous sodium sulfate and then concentrated under reduced pressure. The residue was purified by the silica gel chromatography (hexane:ethyl acetate=7:3) to obtain the title compound.

reactant | 5H-dibenzo[a,d][7]annulen-5-ylidenacetic acid | 0.70 mmol, 173 mg | C1=CC=CC=2C(C3=C(C=CC21)C=CC=C3)=CC(=O)O | C17H12O2
reactant | t-butyl N-(2-aminoethyl)carbamate | 0.77 mmol, 124 mg | NCCNC(OC(C)(C)C)=O | C7H16N2O2
reactant | 1-ethyl-3-(3′-dimethylaminopropyl)carbodiimide hydrochloride | 0.75 mmol, 143 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | triethylamine | 0.79 mmol, 0.11 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | t-butyl 2-[(5H-dibenzo[a,d][7]annulen-5-ylidenacetyl)amino]-ethylcarbamate | C1=CC=CC=2C(C3=C(C=CC21)C=CC=C3)=CC(=O)NCCNC(OC(C)(C)C)=O | C24H26N2O3
